2163-03-13 07:44:00 Physician Resident Progress Note
Chief Complaint: mental status change
   24 Hour Events:
   No events overnight.
   Continued to mumble incoherently during exam.
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-3-13**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-13**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 73 (72 - 97) bpm
   BP: 133/70(87){133/70(85) - 154/73(93)} mmHg
   RR: 13 (13 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
             3,493 mL
   PO:
             TF:
   IVF:
   3,493 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,130 mL
   Urine:
   2,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,363 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Verbalizing incoherently; makes poor eye contact and not responding
   appropriately to facial cues.  NAD
   Poor dentition.  Pupils equal b/l.
   S1, S2, RRR,+systolic murmur at apex
   Lungs clear b/l
   Abd with BS, soft, NT, ND. No palpable mass.
   Tone normal in all extremities, no tremor.  Difficult to elicit
   reflexes throughout, toes downgoing.
   No LE edema; DP +2 b/l
   Labs / Radiology
   52 K/uL
   13.1 g/dL
   103 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   33 mg/dL
   104 mEq/L
   136 mEq/L
   40.0 %
   17.5 K/uL
        [image002.jpg]
                             [**2163-3-13**]  04:22 AM
   WBC
   17.5
   Hct
   40.0
   Plt
   52
   Cr
   0.8
   Glucose
   103
   Other labs: PT / PTT / INR:13.9/23.5/1.2, Differential-Neuts:94.0 %,
   Band:Units: %
   Range: 0-5 %, Lymph:2.0 %, Mono:4.0 %, Eos:Units: %
   Range: 0-4 %, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   61yo woman with known brain metastases admitted with mental status
   change and focal seizure.
   # Mental status change:
   -          in setting of underlying brain metastases, witnessed
   seizure, and concern for CNS infection
   -          no evidence of acute bleed on OSH CT Head
   -          address seizures, CNS mets as below
   -          will not pursue LP at present given cerebellar mets; empiric
   treatment for meningitis with vanc and ceftriaxone (Day 1 = [**3-12**])
 SEIZURE, WITH POSSIBLE STATUS EPILEPTICUS
   -          witnessed focal seizure at OSH; concern for non-convulsive
   status epilepticus per neuro consult note
   -          appreciate neurology recs
   -          continue keppra 1000mg IV BID
   -          EEG to assess for possible non-convulsive status
   -          Per neuro, will give ativan 2mg IV as needed for convulsive
   seizure activity
 CANCER (MALIGNANT NEOPLASM), BREAST with metastases to brain:
   -          no evidence for herniation at this time; follow neuro exam
   closely
   -          continue dexamethasone 4mg TID
will dose IV as patient not
   taking PO
   -          MRI brain to assess for any new mets
   -          Will contact [**Name (NI) 807**] re: admission
   # Thrombocytopenia:
   Not noted on labs in [**Month (only) **], though her platelets were clumping in
   prior sample, raising concern for lab error.
   -          recheck platelets with yellow top tube
   -          investigate home medications for adverse effect of
   thrombocytopenia
   -          send peripheral smear for schistocytes
   -          would transfuse platelets if she develops evidence of bleed
   or if platelets fall < 10-20K.
   # Heart Murmur:
   Not noted on previous exams documented in OMR.  Given concern for
   infection, will check TTE for evidence of vegetations.  Also, will
   follow blood cultures.
 HYPERTENSION, BENIGN:
   -          holding home anti-hypertensives (lisinopril, metoprolol)
   given not taking POs
   -          IV lopressor PRN
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2163-3-13**] 02:00 AM
   22 Gauge - [**2163-3-13**] 04:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   Communication:  Comments: with patient
s boyfriend and son
   [**Name (NI) 66**] status: Full code
   Disposition: ICU until EEG done and no longer requiring frequent neuro
   checks

2163-03-14 06:42:00 Physician Resident Progress Note
Chief Complaint: mental status change
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2163-3-13**] 03:31 PM
   Remained confused
   MRI done - some decrease in perilesion edema but otherwise no
   significant change
   Seen by RadOnc and Neuro: No further brain XRT planned; neuro sees
   little role for LP or antibiotics
   Plts continued to decrease, stopped famotidine and check HIT
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-3-13**] 02:00 AM
   Vancomycin - [**2163-3-13**] 07:57 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2163-3-13**] 07:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-14**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.9
C (96.6
   HR: 77 (75 - 129) bpm
   BP: 107/56(70){99/56(70) - 172/111(124)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  5,282 mL
                                                                    520 mL
   PO:
             TF:
   IVF:
                                                                  5,282 mL
                                                                    520 mL
   Blood products:
   Total out:
                                                                  2,992 mL
                                                                  1,320 mL
   Urine:
                                                                  2,992 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,290 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Continues to have expressive aphasia but able to follow commands to
   stick out tongue, squeeze hands and move toes.
   Mucous membranes dry
   S1, S2, RRR, no murmur heard today
   Lungs clear b/l
   Abd: +BS, soft, NT, ND
   Ext: Pneumoboots in place; No LE edema
   Labs / Radiology
   40 K/uL
   14.2 g/dL
   103 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.6 mEq/L
   25 mg/dL
   96 mEq/L
   130 mEq/L
   42.3 %
   17.9 K/uL
        [image002.jpg]
                             [**2163-3-13**]  04:22 AM
                             [**2163-3-13**]  09:36 AM
                             [**2163-3-14**]  03:32 AM
   WBC
   17.5
   17.9
   Hct
   40.0
   42.3
   Plt
   52
   48
   40
   Cr
   0.8
   0.8
   Glucose
   103
   103
   Other labs: PT / PTT / INR:13.8/23.4/1.2, Differential-Neuts:94.0 %,
   Band:Units: %
   Range: 0-5 %, Lymph:2.0 %, Mono:4.0 %, Eos:Units: %
   Range: 0-4 %, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   BCx pending
   EEG read pending
   MRI [**3-14**]:
   Study limited due to motion.
   Moderate decrease in perilesional edema in left occipital lobe with som
   e
   decrease in the size of the lesion- now 0.9cm (prior 1.4cm); no signifi
   cant
   chnage in other lesions
   Assessment and Plan
   61yo woman with breast CA and brain metastases admitted with mental
   status changes and seizure.
   # Mental status change:
   Suspect secondary to seizure activity in patient with underlying CNS
   metastases.  Improving slowly, though continues to have significant
   expressive aphasia.  Although patient was initially given empiric
   treatment for meningitis, never had fever or evidence of infection, so
   antibiotics stopped.
 SEIZURE
   -          witnessed focal seizure activity at OSH
   -          awaiting EEG results
   -          appreciate input from neuron
   -          will continue keppra 1000mg [**Hospital1 **]
   -          if pt develops convulsive activity, will give ativan 2mg IV
 CANCER (MALIGNANT NEOPLASM), BREAST with brain mets:
   -          appreciate input from radiation oncology and neuron-onc
   -          continue IV dexamethasone
   -          s/p whole brain radiation
   -          MRI brain with some improvement in tumor size following
   radiation, but will f/u final read
   -          Social work consult to help with family coping
   # Thrombocytopenia:
   New since [**Month (only) **]. No schistocytes noted on smear. HIT pending.  There
   are case reports of patients with thrombocytopenia on keppra, but
   unclear if truly implicated.  Phenobarbital can cause agranulocytosis
   or thrombocytopenia, and pt did receive Phenobarbital at OSH for
   control of seizures.
   -          f/u HIT Ab; avoid heparin products
   -          f/u PM platelets; no indication for transfusion unless pt
   starts bleeding or count < 10-20K
   -          will continue keppra for now but would consider stopping if
   platelets still going down tomorrow
   # Hyponatremia:
   -          this pt does have reason for SIADH, though at the moment,
   she is making a large amount of urine, which is not particularly
   consistent with SIADH picture
   -          suspect pt was admitted with dehydration, so low total body
   volume could have contributed
   -          recheck PM Na; if still low, would send urine lytes, Uosm,
   Posm
   # Heart Murmur:
   No longer present on exam today.
   TTE already done; will f/u read
 HYPERTENSION, BENIGN:
   - restart lisinopril and metoprolol if able to take POs
   ICU Care
   Nutrition:
   Comments: NPO but would attempt to advance diet today if mental status
   allows
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2163-3-13**] 04:13 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2163-03-14 11:59:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2163-3-13**] 03:31 PM
   Seen by radiation oncology
   Neurology consult
   Remained confused for most of the day; however, this morning followed
   commands well.  Expressive aphasia persists.
   EEG done; read pending
   History obtained from Medical records, ICU team
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2163-3-13**] 02:00 AM
   Vancomycin - [**2163-3-13**] 07:57 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2163-3-13**] 07:56 PM
   Other medications:
   Keppra, SQI, Lopressor, dexamethasone 4 q 6h, PPI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-3-14**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.4
C (95.8
   HR: 83 (75 - 129) bpm
   BP: 128/69(84){99/56(70) - 172/111(124)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  5,282 mL
                                                                    996 mL
   PO:
             TF:
   IVF:
                                                                  5,282 mL
                                                                    996 mL
   Blood products:
   Total out:
                                                                  2,992 mL
                                                                  1,750 mL
   Urine:
                                                                  2,992 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,290 mL
                                                                   -754 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, Upper extremity DTRs symmetric; follows
   some commands and appears more interactive per ICU team
   Labs / Radiology
   14.2 g/dL
   40 K/uL
   103 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.6 mEq/L
   25 mg/dL
   96 mEq/L
   130 mEq/L
   42.3 %
   17.9 K/uL
        [image002.jpg]
                             [**2163-3-13**]  04:22 AM
                             [**2163-3-13**]  09:36 AM
                             [**2163-3-14**]  03:32 AM
   WBC
   17.5
   17.9
   Hct
   40.0
   42.3
   Plt
   52
   48
   40
   Cr
   0.8
   0.8
   Glucose
   103
   103
   Other labs: PT / PTT / INR:13.8/23.4/1.2, Differential-Neuts:94.0 %,
   Band:Units: %
   Range: 0-5 %, Lymph:2.0 %, Mono:4.0 %, Eos:Units: %
   Range: 0-4 %, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   61 year-old woman with breast cancer metastatic to the brain, now
   presenting with acute alteration of mental status and likely focal
   seizures.
 SEIZURE, WITH STATUS EPILEPTICUS
   She has improved substantially in terms of responsiveness, although
   continues to be unable to verbalize.  This improvement may suggest that
   seizure played a substantial role here.  XRT is not an option.  We have
   discussed with neurology and doubt bacterial meningitis, so antibiotics
   have been d/c'd.  She is on a higher dose of Keppra.
   We will await neurology
s input, as well as the EEG [**Location (un) 308**].
   I suspect she will be ready for transfer out of the intensive care unit
   later today.
 THROMBOCTOPENIA
   This is concerning because we have not fully elucidated the etiology.
   HIT is pending and we are avoiding heparin products.  Although Keppra
   is possible, it is somewhat unlikely and her improved neurologic status
   suggests that Keppra is potentially beneficial here.  We will follow up
   labs and recheck platelets later today.  If they continue to fall (or
   do not improve in the next day or two), would consider trying a
   different AED than Keppra and consulting Hematology.
 CANCER (MALIGNANT NEOPLASM), BREAST
   On dexamethasone for brain metastases.
 HYPERTENSION, BENIGN
   On metoprolol.
   ICU Care
   Nutrition: Consider swallow eval if her alertness continues to improve.
   Lines:
   22 Gauge - [**2163-3-13**] 04:13 AM
   Prophylaxis:
   DVT: Boots.  No heparin given thrombocytopenia.
   Stress ulcer: PPI
   Communication: Patient discussed on interdisciplinary rounds
   Disposition :Transfer to floor
   Total time spent: 35 minutes